* PEX produced on Fri Sep 11 10:43:09 AM CEST 2026 using /foss/tools/sak/iic-pex.sh with m=3 and s=1 (extresist threshold=10 mOhm, minres=10 mOhm, mindelay=1 ps)
* NGSPICE file created from DAC_CORE_5bit.ext - technology: gf180mcuD

.subckt DAC_CORE_5bit DAC_REF VDD b[0] b[1] b[2] b[3] b[4] I_DAC
X0 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X1 a_756_2140# b[3] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X2 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X3 I_DAC b[2] a_756_1612# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X4 VDD DAC_REF.t8 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0.1235n ps=0.5035m w=2u l=5u
X5 VDD DAC_REF.t16 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X6 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X7 VDD DAC_REF.t9 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X8 VDD DAC_REF.t0 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X9 a_756_1612# b[2] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X10 VDD DAC_REF.t1 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X11 VDD DAC_REF.t42 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X12 VDD DAC_REF.t26 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X13 VDD DAC_REF.t21 a_756_2140# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X14 VDD DAC_REF.t11 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X15 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X16 I_DAC b[3] a_756_2140# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X17 VDD DAC_REF.t55 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X18 VDD DAC_REF.t54 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X19 VDD DAC_REF.t8 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X20 VDD DAC_REF.t44 a_756_2140# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X21 VDD DAC_REF.t28 a_1326_1084# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X22 VDD DAC_REF.t8 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X23 VDD DAC_REF.t56 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X24 VDD DAC_REF.t39 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X25 VDD DAC_REF.t38 a_756_1612# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X26 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X27 I_DAC b[2] a_756_1612# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X28 VDD DAC_REF.t49 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X29 VDD DAC_REF.t8 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X30 VDD DAC_REF.t40 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X31 VDD DAC_REF.t33 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X32 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X33 VDD DAC_REF.t51 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X34 VDD DAC_REF.t29 a_2174_1084# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X35 a_2174_1084# b[0] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X36 VDD DAC_REF.t45 a_756_2140# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X37 VDD DAC_REF.t35 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X38 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X39 VDD DAC_REF.t10 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X40 VDD DAC_REF.t2 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X41 a_756_2140# b[3] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X42 I_DAC b[1] a_1326_1084# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X43 VDD DAC_REF.t23 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X44 VDD DAC_REF.t22 a_756_1612# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X45 VDD DAC_REF.t3 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X46 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X47 a_1326_1084# b[1] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X48 VDD DAC_REF.t12 a_756_2140# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X49 I_DAC b[3] a_756_2140# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X50 VDD DAC_REF.t8 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X51 VDD DAC_REF.t24 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X52 VDD DAC_REF.t5 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X53 VDD DAC_REF.t4 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X54 a_756_2140# b[3] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X55 VDD DAC_REF.t17 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X56 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X57 I_DAC b[1] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=16.731p ps=94.38u w=0.78u l=0.28u
X58 VDD DAC_REF.t50 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X59 VDD DAC_REF.t19 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X60 VDD DAC_REF.t13 a_756_2140# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X61 VDD DAC_REF.t52 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X62 VDD DAC_REF.t34 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X63 VDD DAC_REF.t47 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X64 VDD DAC_REF.t46 a_756_2140# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X65 VDD DAC_REF.t31 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X66 VDD DAC_REF.t30 a_1326_1084# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X67 I_DAC b[3] a_756_2140# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X68 VDD DAC_REF.t36 a_756_1612# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X69 VDD DAC_REF.t8 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X70 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X71 VDD DAC_REF.t8 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X72 VDD DAC_REF.t48 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X73 VDD DAC_REF.t32 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X74 VDD DAC_REF.t25 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X75 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X76 VDD DAC_REF.t41 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X77 VDD DAC_REF.t6 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X78 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X79 VDD DAC_REF.t53 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X80 VDD DAC_REF.t27 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X81 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X82 a_756_2140# b[3] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X83 VDD DAC_REF.t43 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X84 VDD DAC_REF.t37 a_756_2140# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X85 VDD DAC_REF.t18 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X86 VDD DAC_REF.t7 VDD VDD pfet_03v3 ad=1.3p pd=5.3u as=0 ps=0 w=2u l=5u
X87 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X88 I_DAC b[3] a_756_2140# VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X89 VDD DAC_REF.t20 a_756_1612# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X90 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X91 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X92 a_756_1612# b[2] I_DAC VDD pfet_03v3 ad=0.507p pd=2.86u as=0.507p ps=2.86u w=0.78u l=0.28u
X93 VDD DAC_REF.t15 a_756_3196# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
X94 VDD DAC_REF.t14 a_756_2140# VDD pfet_03v3 ad=1.3p pd=5.3u as=1.3p ps=5.3u w=2u l=5u
R0 DAC_REF.n4 DAC_REF.t49 41.6131
R1 DAC_REF.n9 DAC_REF.n8 40.1531
R2 DAC_REF.n8 DAC_REF.n7 40.1531
R3 DAC_REF.n7 DAC_REF.n6 40.1531
R4 DAC_REF.n6 DAC_REF.n5 40.1531
R5 DAC_REF.n5 DAC_REF.n4 40.1531
R6 DAC_REF.n12 DAC_REF.n9 39.5861
R7 DAC_REF.n18 DAC_REF.n17 33.0657
R8 DAC_REF.n13 DAC_REF.n12 8.04566
R9 DAC_REF.n17 DAC_REF.n16 8.0005
R10 DAC_REF.n2 DAC_REF.n1 8.0005
R11 DAC_REF.n10 DAC_REF.n3 8.0005
R12 DAC_REF.n19 DAC_REF.n18 8.0005
R13 DAC_REF.n20 DAC_REF.t8 5.69269
R14 DAC_REF.t56 DAC_REF.t48 5.0813
R15 DAC_REF.t48 DAC_REF.t40 5.0813
R16 DAC_REF.t40 DAC_REF.t32 5.0813
R17 DAC_REF.t32 DAC_REF.t24 5.0813
R18 DAC_REF.t24 DAC_REF.t16 5.0813
R19 DAC_REF.t16 DAC_REF.t7 5.0813
R20 DAC_REF.t55 DAC_REF.t47 5.0813
R21 DAC_REF.t47 DAC_REF.t39 5.0813
R22 DAC_REF.t39 DAC_REF.t31 5.0813
R23 DAC_REF.t31 DAC_REF.t23 5.0813
R24 DAC_REF.t23 DAC_REF.t15 5.0813
R25 DAC_REF.t15 DAC_REF.t6 5.0813
R26 DAC_REF.t54 DAC_REF.t46 5.0813
R27 DAC_REF.t46 DAC_REF.t38 5.0813
R28 DAC_REF.t38 DAC_REF.t30 5.0813
R29 DAC_REF.t30 DAC_REF.t22 5.0813
R30 DAC_REF.t22 DAC_REF.t14 5.0813
R31 DAC_REF.t14 DAC_REF.t5 5.0813
R32 DAC_REF.t53 DAC_REF.t45 5.0813
R33 DAC_REF.t45 DAC_REF.t37 5.0813
R34 DAC_REF.t37 DAC_REF.t29 5.0813
R35 DAC_REF.t29 DAC_REF.t21 5.0813
R36 DAC_REF.t21 DAC_REF.t13 5.0813
R37 DAC_REF.t13 DAC_REF.t4 5.0813
R38 DAC_REF.t52 DAC_REF.t44 5.0813
R39 DAC_REF.t44 DAC_REF.t36 5.0813
R40 DAC_REF.t36 DAC_REF.t28 5.0813
R41 DAC_REF.t28 DAC_REF.t20 5.0813
R42 DAC_REF.t20 DAC_REF.t12 5.0813
R43 DAC_REF.t12 DAC_REF.t3 5.0813
R44 DAC_REF.t51 DAC_REF.t43 5.0813
R45 DAC_REF.t43 DAC_REF.t35 5.0813
R46 DAC_REF.t35 DAC_REF.t27 5.0813
R47 DAC_REF.t27 DAC_REF.t19 5.0813
R48 DAC_REF.t19 DAC_REF.t11 5.0813
R49 DAC_REF.t11 DAC_REF.t2 5.0813
R50 DAC_REF.t50 DAC_REF.t42 5.0813
R51 DAC_REF.t42 DAC_REF.t34 5.0813
R52 DAC_REF.t34 DAC_REF.t26 5.0813
R53 DAC_REF.t26 DAC_REF.t18 5.0813
R54 DAC_REF.t18 DAC_REF.t10 5.0813
R55 DAC_REF.t10 DAC_REF.t1 5.0813
R56 DAC_REF.t49 DAC_REF.t41 5.0813
R57 DAC_REF.t41 DAC_REF.t33 5.0813
R58 DAC_REF.t33 DAC_REF.t25 5.0813
R59 DAC_REF.t25 DAC_REF.t17 5.0813
R60 DAC_REF.t17 DAC_REF.t9 5.0813
R61 DAC_REF.t9 DAC_REF.t0 5.0813
R62 DAC_REF.n19 DAC_REF.n0 4.5005
R63 DAC_REF.n16 DAC_REF.n15 4.5005
R64 DAC_REF.n14 DAC_REF.n2 4.5005
R65 DAC_REF.n17 DAC_REF.n1 2.41021
R66 DAC_REF.n10 DAC_REF.n1 2.41021
R67 DAC_REF.n14 DAC_REF.n13 2.25555
R68 DAC_REF.n11 DAC_REF.n10 1.84322
R69 DAC_REF DAC_REF.n20 1.53274
R70 DAC_REF.n11 DAC_REF.t56 1.4605
R71 DAC_REF.n9 DAC_REF.t55 1.4605
R72 DAC_REF.n8 DAC_REF.t54 1.4605
R73 DAC_REF.n7 DAC_REF.t53 1.4605
R74 DAC_REF.n6 DAC_REF.t52 1.4605
R75 DAC_REF.n5 DAC_REF.t51 1.4605
R76 DAC_REF.n4 DAC_REF.t50 1.4605
R77 DAC_REF.n12 DAC_REF.n11 0.56749
R78 DAC_REF.n18 DAC_REF.t8 0.425743
R79 DAC_REF.n15 DAC_REF.n0 0.174816
R80 DAC_REF.n20 DAC_REF.n19 0.129523
R81 DAC_REF.n16 DAC_REF.n2 0.0905
R82 DAC_REF.n3 DAC_REF.n2 0.0905
R83 DAC_REF.n13 DAC_REF.n3 0.0454494
R84 DAC_REF.n15 DAC_REF.n14 0.0219737
R85 DAC_REF DAC_REF.n0 0.0128158
C0 VDD a_756_2140# 10.3434f
C1 I_DAC VDD 3.4636f
C2 a_1326_1084# DAC_REF 0.93984f
C3 a_1326_1084# b[0] 0.14668f
C4 b[4] VDD 4.2701f
C5 VDD a_756_3196# 14.0289f
C6 a_756_1612# b[1] 0.34695f
C7 I_DAC a_756_2140# 0.87536f
C8 b[4] a_756_2140# 0.01639f
C9 VDD a_2174_1084# 1.88428f
C10 a_756_2140# a_756_3196# 3.35035f
C11 b[4] I_DAC 3.84078f
C12 I_DAC a_756_3196# 1.45976f
C13 a_1326_1084# a_756_1612# 3.04761f
C14 a_1326_1084# b[1] 0.15385f
C15 b[4] a_756_3196# 4.20268f
C16 DAC_REF VDD 0.10572p
C17 b[2] VDD 1.02278f
C18 VDD b[0] 2.93157f
C19 a_756_2140# a_2174_1084# 0.69791f
C20 I_DAC a_2174_1084# 0.06026f
C21 DAC_REF a_756_2140# 4.97047f
C22 a_756_3196# a_2174_1084# 0.31455f
C23 b[2] a_756_2140# 0.46701f
C24 I_DAC b[2] 0.85146f
C25 I_DAC b[0] 1.13694f
C26 b[3] VDD 1.96868f
C27 DAC_REF a_756_3196# 6.99172f
C28 VDD a_756_1612# 5.27243f
C29 VDD b[1] 0.8244f
C30 b[3] a_756_2140# 2.29936f
C31 DAC_REF a_2174_1084# 0.96778f
C32 b[0] a_2174_1084# 0.30623f
C33 I_DAC b[3] 1.74008f
C34 a_756_1612# a_756_2140# 1.67571f
C35 a_1326_1084# VDD 2.97814f
C36 I_DAC a_756_1612# 0.39369f
C37 I_DAC b[1] 0.73102f
C38 b[4] b[3] 0.31433f
C39 b[3] a_756_3196# 0.08999f
C40 b[2] b[0] 0.02804f
C41 a_756_1612# a_756_3196# 0.47341f
C42 a_1326_1084# a_756_2140# 0.25077f
C43 a_1326_1084# I_DAC 0.35072f
C44 a_756_1612# a_2174_1084# 0.09401f
C45 a_1326_1084# a_756_3196# 0.33468f
C46 b[2] b[3] 0.13418f
C47 DAC_REF a_756_1612# 2.22492f
C48 b[2] a_756_1612# 0.59437f
C49 b[2] b[1] 0.10471f
C50 a_756_1612# b[0] 0.12014f
C51 b[1] b[0] 0.0603f
C52 a_1326_1084# a_2174_1084# 1.22736f
C53 DAC_REF w_376_0# 2.39638f
C54 I_DAC w_376_0# 0.70887f
C55 VDD w_376_0# 0.35528p
C56 a_2174_1084# w_376_0# 1.11286f
C57 a_1326_1084# w_376_0# 1.89767f
C58 a_756_1612# w_376_0# 3.60827f
C59 a_756_2140# w_376_0# 7.58748f
C60 a_756_3196# w_376_0# 15.01942f
C61 DAC_REF.n0 w_376_0# 0.85132f
C62 DAC_REF.n1 w_376_0# 0.1416f
C63 DAC_REF.n2 w_376_0# 0.04674f
C64 DAC_REF.n3 w_376_0# 0.04674f
C65 DAC_REF.n4 w_376_0# 1.55185f
C66 DAC_REF.n5 w_376_0# 1.50279f
C67 DAC_REF.n6 w_376_0# 1.50279f
C68 DAC_REF.n7 w_376_0# 1.50279f
C69 DAC_REF.n8 w_376_0# 1.50279f
C70 DAC_REF.n9 w_376_0# 1.49408f
C71 DAC_REF.n10 w_376_0# 0.12494f
C72 DAC_REF.n11 w_376_0# 0.32352f
C73 DAC_REF.n12 w_376_0# 0.61736f
C74 DAC_REF.n13 w_376_0# 0.05113f
C75 DAC_REF.n14 w_376_0# 0.58306f
C76 DAC_REF.n15 w_376_0# 0.8931f
C77 DAC_REF.n16 w_376_0# 0.04674f
C78 DAC_REF.n17 w_376_0# 0.38297f
C79 DAC_REF.n18 w_376_0# 0.53392f
C80 DAC_REF.n19 w_376_0# 0.06345f
C81 DAC_REF.n20 w_376_0# 0.37965f
.ends

